US08071776B2
C. 3-amino-5-chloro-6-isopropoxy-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide
To a solution of N-cyclopropyl-2-mercapto-acetamide (0.498 g, 3.80 mmol) in MeOH (5 ml) is added sodium methoxide solution (25% wt. in MeOH)(0.652 ml, 2.85 mmol). The resulting solution is stirred at room temperature for 30 minutes, then treated with a 1:1 mixture of 2,5-dichloro-6-isopropoxy-4-methyl-nicotinonitrile and 5,6-dichloro-2-isopropoxy-4-methyl-nicotinonitrile (0.400 g, 1.63 mmol). The reaction vessel is sealed, heated at 100° C. for 2.5 hours, and cooled to room temperature. The reaction mixture is poured over water (60 ml), then extracted with EtOAc (2×40 ml). The combined organic layers are washed with brine (50 ml), dried (anhydrous magnesium sulfate), filtered, and concentrated to give a yellow-brown solid. Flash chromatography (1.5:1 hexane:EtOAc) affords the title compound as a tan solid (20 mg). Mass (m/z): 340.1 (M++1).

reactant | N-cyclopropyl-2-mercapto-acetamide | 3.80 mmol, 0.498 g | C1(CC1)NC(CS)=O | C5H9NOS
reactant | sodium methoxide | 2.85 mmol, 0.652 ml | C[O-].[Na+]
reactant | 2,5-dichloro-6-isopropoxy-4-methyl-nicotinonitrile | ClC1=C(C#N)C(=C(C(=N1)OC(C)C)Cl)C | C10H10Cl2N2O
reactant | 5,6-dichloro-2-isopropoxy-4-methyl-nicotinonitrile | 1.63 mmol, 0.400 g | ClC=1C(=NC(=C(C#N)C1C)OC(C)C)Cl | C10H10Cl2N2O
solvent | MeOH | 5 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | water | 60 ml | O | H2O
product | 3-amino-5-chloro-6-isopropoxy-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 20 mg | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)OC(C)C)S1)N | C15H18ClN3O2S
